US07915411B2
Sodium thiophenolate was reacted with 1-Chloro-4-ethyl-2-nitro-benzene according to the procedure from Example 5H substituting 1-Chloro-4-ethyl-2-nitro-benzene for 4-chloro-3-nitrotoluene to provide 4-Ethyl-2-nitro-1-phenylsulfanyl-benzene which was reduced according to the procedure from Example 5I to provide the title compound.

reactant | Sodium thiophenolate | C1(=CC=CC=C1)[S-].[Na+]
reactant | 1-Chloro-4-ethyl-2-nitro-benzene | ClC1=C(C=C(C=C1)CC)[N+](=O)[O-] | C8H8ClNO2
reactant | 4-chloro-3-nitrotoluene | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
product | 4-Ethyl-2-nitro-1-phenylsulfanyl-benzene | C(C)C1=CC(=C(C=C1)SC1=CC=CC=C1)[N+](=O)[O-] | C14H13NO2S
